US05302595
Preparation of 1-[(5-cyano-10,11-dihydrodibenzo[a,d]cyclohepten-5-yl]-2-[N-(4-fluorophenethyl)-N-methylamino]ethane
A mixture containing 1-[(5-cyano-10,11-dihydrodibenzo[a,d]cyclohepten-5-yl]-2-bromoethane (3.26 g -- see Preparation 26), N-methyl-4-fluorophenethylamine (1.53 g -- see C.A. 80:P120985y), anhydrous potassium carbonate (2.76 g) and acetonitrile (50 ml) was heated under reflux for 24 hours then concentrated in vacuo. Water (50 ml) was added to the residue and the resulting mixture was extracted with dichloromethane (3×60 ml). The combined dichloromethane extracts were dried (Na2SO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with hexane containing dichloromethane (25% up to 100%) and then with dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a viscous oil, yield, 1.7 g.

reactant | (5-cyano-10,11-dihydrodibenzo[a,d]cyclohepten-5-yl]-2-bromoethane | 3.26 g | C(#N)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)CCBr | C18H16BrN
reactant | N-methyl-4-fluorophenethylamine | 1.53 g | CNCCC1=CC=C(C=C1)F | C9H12FN
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (5-cyano-10,11-dihydrodibenzo[a,d]cyclohepten-5-yl]-2-[N-(4-fluorophenethyl)-N-methylamino]ethane | C(#N)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)CCN(C)CCC2=CC=C(C=C2)F | C27H27FN2
